US09085534B2
3-[(4-chloro-2-methoxybenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 35% yield from 4-chloro-2-methoxy-benzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.49 (br s, 1H), 8.10 (s, 1H), 8.00 (br s, 1H), 7.81 (d, 1H, J=5.0 Hz), 7.56 (d, 1H, J=5.0 Hz), 7.24 (d, 1H, J=8.1 Hz), 7.11 (d, 1H, J=1.9 Hz), 6.96 (dd, 1H, J=8.0, 1.9 Hz), 4.47 (s, 2H), 3.87 (s, 3H). [M+H] calc'd for C14H13ClN2O3, 293, 295; found 293, 295.

reactant | 4-chloro-2-methoxy-benzylamine | ClC1=CC(=C(CN)C=C1)OC | C8H10ClNO
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(4-chloro-2-methoxybenzyl)amino]pyridine-4-carboxylic acid | 35% yield | ClC1=CC(=C(CNC=2C=NC=CC2C(=O)O)C=C1)OC | C14H13ClN2O3
